US05624955
Preparation of 3-(γ-L-Glutamyl)-2(R,S)-Methylthiazolidine-4(R)-Carboxylic Acid (1)
To a stirred suspension of 2(R,S)-methylthiazolidine-4(R)-carboxylic acid (8.51 g, 57.9 mmol) prepared according to Nagasawa et al., J. Med. Chem., 27, 591 (1984), which is incorporated herein by reference, in dry CH3CN (100 mL) under a N2 atmosphere was added bis-(trimethylsilyl)trifluoroacetamide (17.0 mL, 17.7 g, 68.7 mmol, obtained from Sigma Chemical Co., "BSTFA") and the mixture was heated under reflux for 1.25 hours. The solids dissolved within 10 minutes of heating. After cooling to room temperature, N-phthaloyl-L-glutamic anhydride (15.0 g, 58.0 mmol) prepared according to Elbefling et al., Org. Prep. Proceed. Int., 11, 67 (1979), which is incorporated herein by reference, was added, followed by dry CH3CN (25 mL). After 5 days at room temperature the solvent was evaporated in vacuo. To the resultant pale yellow thick oil (41.1 g) were added with stirring under a N2 atmosphere, 1.0M Et3N in CH3OH (220 mL) and 2.0M NH2NH2.H2O in 50% aqueous CH3OH (73 mL). After 2 days of stirring the solvent was evaporated in vacuo. The resultant thick, white, semisolid (51.8 g) was suspended in H2O (150 mL) and the solvent evaporated again to give 49.7 g of a thick, white oil. This was poured into warm H2O (350 mL) with swirling. The resultant precipitate of phthalhydrazide was removed by filtration and the filter cake was rinsed with H2O (approximately 100 mL). The combined filtrate was acidified to pH 3.5 with 1.0N HCl, whereupon more phthalhydrazide precipitated. This was removed by filtration, and the filtrate was evaporated in vacuo, keeping the temperature under 40° C., to give 35.8 g of a thick, pale yellow oil whose NMR spectrum showed the presence of much Et3N and some phthalhydrazide in addition to the desired product. The oil was, therefore, resuspended in H2O (75 mL), the mixture was stirred, and the additional solids that precipitated were removed by filtration. The filtrate was evaporated to incipient dryness in vacuo to give a thick oil (24.6 g).

reactant | 2(R,S)-methylthiazolidine-4(R)-carboxylic acid | 57.9 mmol, 8.51 g | CC1SC[C@H](N1)C(=O)O | C5H9NO2S
reactant | bis-(trimethylsilyl)trifluoroacetamide | 68.7 mmol, 17.0 mL, 17.7 g | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | N-phthaloyl-L-glutamic anhydride | 58.0 mmol, 15.0 g | C1CC(=O)OC(=O)[C@H]1N2C(=O)C3=CC=CC=C3C2=O | C13H9NO5
reactant | phthalhydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | CH3CN | 25 mL | CC#N | C2H3N
solvent | Et3N | CCN(CC)CC | C6H15N
solvent | H2O | 350 mL | O | H2O
product | 3-(γ-L-Glutamyl)-2(R,S)-Methylthiazolidine-4(R)-Carboxylic Acid | N[C@@H](CCC(=O)N1C(SC[C@H]1C(=O)O)C)C(=O)O | C10H16N2O5S
